US05739158
Preparation of (±)-cis-N-[2-(3,4-dichlorophenyl)ethyl]-2-(1-pyrrolidinyl)-cyclohexylamine
(±)-cis-2-(1-pyrrolidinyl)cyclohexylamine (5 gm) was combined with pyridine (1.2 gm), chloroform (200 ml), 3,4-dichlorophenylacetic acid (9.15 gm), and dicyclohexylcarbodiimide (12.3 gm) and the mixture was stirred for 12 hr at room temperature. The mixture was filtered, the precipitate was washed with ether (100 ml) and the filtrate and ether wash were combined. The organic solution was diluted with ether (200 ml) and extracted with 10% citric acid in water (300 ml). The acid layer was washed with ether (2×200 ml), then treated with excess concentrated aqueous ammonia until basic. The resulting mixture was extracted with methylene chloride (2×200 ml) and the combined organic extracts were washed with water (2×50 ml) and concentrated on a rotary evaporator. The resulting white solid was combined with tetrahydrofuran (25 ml) and added dropwise to a solution of AlH3 in tetrahydrofuran (76.2 ml of a 0.665M solution) at room temperature. After the addition, the mixture was poured into 15% NaOH and the resulting mixture was extracted with ether (3×100 ml). The ether was removed on a rotary evaporator and the residue was dissolved in ethanol (100 ml). The ethanol was removed on a rotary evaporator and the residue was converted to the hydrogen bromide salt which was recrystallized from ethanol. Analytical data are reported in Table I.

reactant | (±)-cis-2-(1-pyrrolidinyl)cyclohexylamine | 5 gm | N1(CCCC1)[C@@H]1[C@@H](CCCC1)N | C10H20N2
reactant | pyridine | 1.2 gm | N1=CC=CC=C1 | C5H5N
reactant | 3,4-dichlorophenylacetic acid | 9.15 gm | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | dicyclohexylcarbodiimide | 12.3 gm | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | (±)-cis-N-[2-(3,4-dichlorophenyl)ethyl]-2-(1-pyrrolidinyl)-cyclohexylamine | ClC=1C=C(C=CC1Cl)CCN[C@H]1[C@H](CCCC1)N1CCCC1 | C18H26Cl2N2
